data/mechanism_extracts/NatCommun/10.1038_s41467-024-47168-w_sup_1.json
{"doi": "10.1038_s41467-024-47168-w_sup_1", "journal": "NatCommun", "is_review": false, "rxn_class_summary": "Electrochemical hydrogenation of unactivated alkyl alkenes using catalytic chlorosilanes as a Si-based H-carrier with H2O as the terminal hydrogen source, mediated by Fe (sacrificial anode) and Ni cocatalysis.", "mechanism_family": ["mediator_cathodic", "sacrificial_anode", "electrocatalysis_inner_sphere", "paired_electrolysis"], "electrochemical_role": "Cathodic reduction of Ph3SiCl to a silyl anion (via silyl radical) that abstracts H from H2O to give Ph3SiH; concurrently the sacrificial Fe anode releases Fe(II/III) salts that enter an Fe-H catalytic cycle delivering H to alkene; Ni(II) precatalyst (NiBr2·dtbpy) provides a parallel Ni-H pathway with opposite regioselectivity.", "key_intermediates": [{"name": "Ph3Si- (silyl anion, B)", "smiles": "[Si-](c1ccccc1)(c1ccccc1)c1ccccc1", "role": "transient"}, {"name": "Ph3Si• (silyl radical, A)", "smiles": "[Si](c1ccccc1)(c1ccccc1)c1ccccc1", "role": "transient"}, {"name": "Ph3SiH (hydrosilane, C)", "smiles": "[SiH](c1ccccc1)(c1ccccc1)c1ccccc1", "role": "reactive"}, {"name": "Ph3SiOH (silanol, D, resting Si species)", "smiles": "O[Si](c1ccccc1)(c1ccccc1)c1ccccc1", "role": "resting_state"}, {"name": "[Fe]Xn anodically generated Fe salt (Fe-INT1A)", "smiles": null, "role": "reactive"}, {"name": "[Fe]-H hydride (Fe-INT2A)", "smiles": null, "role": "reactive"}, {"name": "[Fe]-CH(R)CH3 alkyl-Fe (linear, Fe-INT3B, major)", "smiles": null, "role": "reactive"}, {"name": "[Fe]-CH2CH2R alkyl-Fe (branched, Fe-INT3A, minor)", "smiles": null, "role": "reactive"}, {"name": "[Fe]-OH hydroxide (Fe-INT4A)", "smiles": null, "role": "transient"}, {"name": "Ni-H species (parallel cycle, branch-selective)", "smiles": null, "role": "reactive"}, {"name": "Disilane Ph(Me)2Si-Si(Me)2Ph (off-pathway at high [chlorosilane])", "smiles": "C[Si](C)(c1ccccc1)[Si](C)(C)c1ccccc1", "role": "off_pathway"}], "electron_flow": "Cathode reduces Ph3SiCl (via Si radical to silyl anion) which is protonated by H2O to give Ph3SiH; Ph3SiH transfers H to an Fe(II)-X species generated from the sacrificial Fe anode, forming Fe-H that inserts into the alkene; hydrolysis of the resulting Fe-alkyl by H2O releases alkane and Fe-OH, which is reduced back into the cycle, while Ph3SiOH (resting Si species) is recycled via fluorination/chlorination back to Ph3SiX.", "rate_determining_step": null, "probe_reagents": [{"name": "D2O / CF3CH2OD", "smiles": "[2H]O[2H]", "purpose": "isotope_label", "observation": "Deuterium incorporation in product confirms H2O/ROH is the H-source; inverse D-ratio between Fe-H and Ni-H regimes supports two parallel metal-hydride cycles."}, {"name": "CF3CH2OH (replacing H2O)", "smiles": "OCC(F)(F)F", "purpose": "intermediate_trap", "observation": "Ph3SiOCH2CF3 detected by 19F NMR, confirming silanol/silyl-ether intermediates; reaction still proceeds in 90% yield."}, {"name": "(TMS)2O", "smiles": "C[Si](C)(C)O[Si](C)(C)C", "purpose": "redox_probe", "observation": "CV shows E1/2 = -3.17 V vs Ag/Ag+; under electrolysis converts to TMSOCH2CF3, supporting Si-O cleavage and re-entry to Si cycle."}, {"name": "GC-MS detection of Ph3SiOH", "smiles": "O[Si](c1ccccc1)(c1ccccc1)c1ccccc1", "purpose": "intermediate_trap", "observation": "Significant Ph3SiOH peak at 15.6 min after 5 h electrolysis, identifying silanol as the stable Si resting species."}, {"name": "PhMe2SiCl (1.0-2.0 equiv)", "smiles": "C[Si](C)(Cl)c1ccccc1", "purpose": "intermediate_trap", "observation": "Disilane Ph(Me)2Si-Si(Me)2Ph isolated (56-58%) alongside hydrogenation product (15-20%), evidencing silyl-anion intermediate via nucleophilic Si-Si coupling."}, {"name": "Fe(BF4)2·6H2O / FeCl3 (no current)", "smiles": null, "purpose": "other", "observation": "Stoichiometric mixing with Ph3SiH and alkene gave 0% alkane (98% recovered SM), showing that electrochemistry is indispensable for generating the active Fe species."}, {"name": "H2O loading screen (0, 1, 2, 3, 5 equiv)", "smiles": "O", "purpose": "other", "observation": "Sharply non-monotonic: 0 equiv 92% (H from DMF), 1/2/5 equiv 0%, 3 equiv 92%; consistent with a narrow optimum balancing H-transfer vs. silane hydrolysis."}], "evidence_types_used": ["H/D_labeling", "cyclic_voltammetry", "intermediate_trap_other", "isolation_of_intermediate", "DFT", "stoichiometric_intermediate", "kinetic_order"], "evidence_strength": "medium", "notes": "Authors favor a homogeneous dual Fe/Ni-hydride cycle with a Si-shuttle (Ph3SiCl -> Ph3Si- -> Ph3SiH -> Ph3SiOH -> back to Ph3SiX). Reviewers raised serious alternatives: (i) heterogeneous Fe/Ni nanoparticle hydrogenation from electrodeposited Fe on Ni foam, and (ii) hydroxysilane (Ph3SiOH) rather than chlorosilane being the true active mediator. The stoichiometric Fe(BF4)2/FeCl3 + Ph3SiH controls gave no alkane, which the authors attribute to inability to mimic the anodically generated Fe species but reviewers argue is consistent with heterogeneous catalysis. Ni-H and Fe-H proposed to give opposite regioselectivity (branch vs linear), supported by DFT (Figures S2/S3). Disilane formation at high chlorosilane loading is rationalized as off-pathway Si-Si coupling of silyl anion with chlorosilane."}
